US09169261B2
Methyl 1-(4-iodophenyl)-1,2,4-triazole-3-carboxylate (830 mg, 2.5 mmol) was dissolved in MeOH (20 mL) and THF (10 mL). 1 M NaOH (2.5 mL, 2.5 mmol) was added and the mixture stirred at room temperature for 2 h. Additional 1 M NaOH was added (2.5 mL, 2.5 mmol) and the reaction was heated to 50° C. for 30 minutes. After cooling to room temperature, the pH was adjusted to 4 by the addition of 6 M HCl, MeOH and THF were removed under reduced pressure and the resulting white precipitate was collected by filtration and dried in vacuo to obtain 680 mg (86% yield) of 1-(4-iodophenyl)-1,2,4-triazole-3-carboxylic acid.

reactant | Methyl 1-(4-iodophenyl)-1,2,4-triazole-3-carboxylate | 2.5 mmol, 830 mg | IC1=CC=C(C=C1)N1N=C(N=C1)C(=O)OC | C10H8IN3O2
reactant | NaOH | 2.5 mmol, 1 M, 2.5 mL | [OH-].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | HCl | 6 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-iodophenyl)-1,2,4-triazole-3-carboxylic acid | 680 mg, 86% yield | IC1=CC=C(C=C1)N1N=C(N=C1)C(=O)O | C9H6IN3O2
